US07504408B2
Di-tert-butylazodicarboxylate (393 mg, 1.71 mmol) was added portionwise, at room temperature, to a stirred suspension of 4-chloro-6-methoxyquinazolin-7-ol, (300 mg, 1.42 mmol), 1-(3-hydroxypropyl)-4-methylpiperazin-2-one (270 mg, 1.57 mmol) and triphenylphosphine (522 mg, 1.99 mmol) in dichloromethane (10 ml). The reaction was stirred 1 hr before adding further di-tert-butylazodicarboxylate (393 mg) and triphenylphosphine (522 mg) and stirring for a further 1 hr. The resulting reaction solution was purified by column chromatography on silica using increasing concentrations of methanol in dichloromethane as eluent to give 1-{3-[(4-chloro-6-methoxyquinazolin-7-yl)oxy]propyl}-4-methylpiperazin-2-one (260 mg, 50%) as a pale yellow solid; NMR Spectrum:(DMSOd6) 2.06 (quintet, 2H), 2.20 (s, 3H), 2.60 (t, 2H), 2.91 (s, 2H), 3.33 (t, 2H), 3.48 (t, 2H), 4.00 (s, 3H), 4.22 (t, 2H), 7.40 (s, 1H), 7.41 (s, 1H), 8.87 (s, 1H); Mass Spectrum: M+H+ 365/367.

reactant | Di-tert-butylazodicarboxylate | 1.71 mmol, 393 mg | CC(C)(C)OC(=O)/N=N/C(=O)OC(C)(C)C | C10H18N2O4
reactant | 4-chloro-6-methoxyquinazolin-7-ol | 1.42 mmol, 300 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)O | C9H7ClN2O2
reactant | 1-(3-hydroxypropyl)-4-methylpiperazin-2-one | 1.57 mmol, 270 mg | OCCCN1C(CN(CC1)C)=O | C8H16N2O2
reactant | triphenylphosphine | 1.99 mmol, 522 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butylazodicarboxylate | 393 mg | CC(C)(C)OC(=O)/N=N/C(=O)OC(C)(C)C | C10H18N2O4
reactant | triphenylphosphine | 522 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-{3-[(4-chloro-6-methoxyquinazolin-7-yl)oxy]propyl}-4-methylpiperazin-2-one | 260 mg, 50% | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1C(CN(CC1)C)=O | C17H21ClN4O3
